US07329749B2
Analogously to Example 3, firstly isoquinoline-3-carboxylic acid is reacted with thionyl chloride, and the resultant isoquinoline-3-carbonyl chloride is reacted with 1-[2-(4-fluorophenyl)ethyl]piperazine, giving {4-[2-(4-fluoro-phenyl)ethyl]piperazin-1-yl}isoquinolin-3-ylmethanone.

reactant | isoquinoline-3-carboxylic acid | C1=NC(=CC2=CC=CC=C12)C(=O)O | C10H7NO2
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
reactant | isoquinoline-3-carbonyl chloride | C1=NC(=CC2=CC=CC=C12)C(=O)Cl | C10H6ClNO
reactant | 1-[2-(4-fluorophenyl)ethyl]piperazine | FC1=CC=C(C=C1)CCN1CCNCC1 | C12H17FN2
product | {4-[2-(4-fluoro-phenyl)ethyl]piperazin-1-yl}isoquinolin-3-ylmethanone | FC1=CC=C(C=C1)CCN1CCN(CC1)C(=O)C=1N=CC2=CC=CC=C2C1 | C22H22FN3O
